US04885022
Preparation of 4-(2-chloro-3-ethylthiomethyl-4-methanesulfonylbenzoyl)-1-ethyl-5-hydroxypyrazole
3 g of 2-chloro-3-ethylthiomethyl-4-methanesulfonylbenzoic acid, 0.72 g of potassium carbonate, 50 ml of t-amyl alcohol, 1.95 g of N,N'-dicyclohexylcarbodiimide and 4.5 g of a 25% t-amyl alcohol solution of 1-ethyl-5-pyrazolone were mixed and heated under stirring for 4 hours at a temperature of from 70° to 80° C. After cooling, the mixture was distilled under reduced pressure, and 200 ml of water was added to the residue. After filtering off the insolubles, the filtrate was washed with chloroform. Hydrochloric acid was added to the aqueous layer, and the mixture was extracted with chloroform. The extract was dried, and the solvent was distilled off to obtain the desired product as a crude product. The crude product was recrystallized from ethanol to obtain 1.88 g of the purified product. (Melting pont: 142°-145° C.)

reactant | 2-chloro-3-ethylthiomethyl-4-methanesulfonylbenzoic acid | 3 g | ClC1=C(C(=O)O)C=CC(=C1CSCC)S(=O)(=O)C | C11H13ClO4S2
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N'-dicyclohexylcarbodiimide | 1.95 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-ethyl-5-pyrazolone | C(C)N1NC=CC1=O | C5H8N2O
solvent | t-amyl alcohol | 50 ml | C(C)(C)(CC)O | C5H12O
product | 4-(2-chloro-3-ethylthiomethyl-4-methanesulfonylbenzoyl)-1-ethyl-5-hydroxypyrazole | ClC1=C(C(=O)C=2C=NN(C2O)CC)C=CC(=C1CSCC)S(=O)(=O)C | C16H19ClN2O4S2
